US04329347
6-[4-(2-Benzimidazolyl-sulfinyl)-butoxy]-3,4-dihydro-carbostyril
Prepared analogous to Example 2 from 6-[4-(2-benzimidazolyl-mercapto)-butoxy]-3,4-dihydrocarbostyril and hydrogen peroxide.

reactant | 6-[4-(2-benzimidazolyl-mercapto)-butoxy]-3,4-dihydrocarbostyril | N1=C(NC2=C1C=CC=C2)SCCCCOC=2C=C1CCC(NC1=CC2)=O | C20H21N3O2S
reactant | hydrogen peroxide | OO | H2O2
product | 6-[4-(2-Benzimidazolyl-sulfinyl)-butoxy]-3,4-dihydro-carbostyril | N1=C(NC2=C1C=CC=C2)S(=O)CCCCOC=2C=C1CCC(NC1=CC2)=O | C20H21N3O3S
